US05405865
Stage A: 5-formyl-2-furancarbonitrile.
75 ml of tetrahydrofuran and 22.6 ml of diisopropylamine were cooled to -60° C. and 100 ml of 1.6M n-butyllithium in hexane were added over 25 minutes. The mixture was stirred for 1 hour and 13.02 g of 2-furancarbonitrile in 50 ml of tetrahydrofuran were added. The mixture was stirred for 40 minutes at -70° C. and 13 ml of N-dimethylformamide in 25 ml of tetrahydrofuran were added. The mixture was stirred for 2 hours at -70° C. and then poured into an aqueous potassium dihydrogen phosphate solution and extracted with isopropyl ether. The extract was dried and the solvent was evaporated to obtain after chromatography on silica (eluent: 7/3 hexane/ethyl acetate) 3.51 g of the expected product.

reactant | diisopropylamine | 22.6 ml | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 1.6M, 100 ml | C(CCC)[Li]
reactant | 2-furancarbonitrile | 13.02 g | O1C(=CC=C1)C#N | C5H3NO
reactant | potassium dihydrogen phosphate | P(=O)(O)(O)[O-].[K+]
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
product | 5-formyl-2-furancarbonitrile | C(=O)C1=CC=C(O1)C#N | C6H3NO2
